US06794403B2
7-Cyclopentyl-2-(4-hydroxyphenyl)-1,3-benzoxazol-5-ol
The title compound was prepared in substantially the same manner as described in Example 35, from 7-bromo-5-methoxy-2-(4-methoxyphenyl)-1,3-benzoxazole, and bromo(cyclopentyl)zinc. The desired product was obtained as a white solid, m.p. 220-222° C.; MS m/e 296 (M+H)+.

reactant | 7-bromo-5-methoxy-2-(4-methoxyphenyl)-1,3-benzoxazole | BrC1=CC(=CC=2N=C(OC21)C2=CC=C(C=C2)OC)OC | C15H12BrNO3
reactant | bromo(cyclopentyl)zinc | Br[Zn]C1CCCC1
product | 7-Cyclopentyl-2-(4-hydroxyphenyl)-1,3-benzoxazol-5-ol | C1(CCCC1)C1=CC(=CC=2N=C(OC21)C2=CC=C(C=C2)O)O | C18H17NO3
